US08071600B2
3-Methoxy-2-methoxymethoxy-5-(2-oxo-oxazolidin-3-yl)benzaldehyde (0.5 g, 1.79 mmol) was dissolved in a solvent mixture of acetic acid (5 ml) and ethanol (5 ml) and 10% palladium carbon (0.05 g) was added thereto to perform catalytic reduction at 1 atm at 50° C. for 4 hours. The reaction mixture was cooled to room temperature and filtrated by cerite. The filtrate was concentrated under reduced pressure. The residue was dissolved in acetic acid (10 ml) and 10% palladium carbon (0.05 g) was added thereto to perform catalytic reduction at 1 atm at 50° C. for 6 hours. The solvent was removed under reduced pressure to obtain 3-(3-methoxy-4-methoxymethoxy-5-methylphenyl)oxazolidin-2-one as a crude product, which was subjected to the next reaction as it was.

reactant | 3-Methoxy-2-methoxymethoxy-5-(2-oxo-oxazolidin-3-yl)benzaldehyde | 1.79 mmol, 0.5 g | COC=1C(=C(C=O)C=C(C1)N1C(OCC1)=O)OCOC | C13H15NO6
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium carbon | 0.05 g | [C].[Pd]
product | 3-(3-methoxy-4-methoxymethoxy-5-methylphenyl)oxazolidin-2-one | COC=1C=C(C=C(C1OCOC)C)N1C(OCC1)=O | C13H17NO5
